US04407927
In 50 ml of anhydrous ethanol were dissolved 35.4 g of p-diethylaminobenzaldehyde and 12.6 g of 4-ethylcyclohexanone, and 20 ml of 10% ethanolic solution of sodium ethoxide was added dropwise to the resulting solution, and the resulting mixture was subjected to reaction under reflux for 12 hours. The reaction mixture was cooled, and the crystals thus precipitated were collected by filtration and then recrystallized from toluene, to obtain 15.8 g of 2,6-bis(4'-diethylaminobenzal)-4-ethylcyclohexanone (m.p. 141° C.).

reactant | p-diethylaminobenzaldehyde | 35.4 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | 4-ethylcyclohexanone | 12.6 g | C(C)C1CCC(CC1)=O | C8H14O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,6-bis(4'-diethylaminobenzal)-4-ethylcyclohexanone | 15.8 g | C(C)N(C1=CC=C(C=C2C(C(CC(C2)CC)=CC2=CC=C(C=C2)N(CC)CC)=O)C=C1)CC | C30H40N2O
